US08729263B2
Following GENERAL METHOD 3-1 for methoxy deprotection using thiophenol, 6-(4-(imidazo[1,2-a]pyrazin-3-yl)-2-methoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (49 mg, 0.1 mmol) was treated with thiophenol (0.01 mL, 0.12 mmol) and K2CO3 (14 mg, 0.11 mmol) in NMP (2 mL) for 30 minutes at 190° C. to afford 5-(imidazo[1,2-a]pyrazin-3-yl)-2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol (8 mg). MS: 458.4 [M+H+]; LCMS Rt=0.47 min [Method Q]; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.16 (s, 1H), 8.41 (d, J=5.05 Hz, 1H), 7.92-7.97 (m, 2H), 7.88 (d, J=10.11 Hz, 1H), 7.75 (d, J=8.08 Hz, 1H), 7.31 (s, 1H), 7.13 (s, 1H), 7.05 (d, J=9.60 Hz, 1H), 4.99 (br. s., 1H), 3.05 (s, 3H), 1.72 (d, J=12.13 Hz, 2H), 1.46 (t, J=12.38 Hz, 2H), 1.39 (s, 6H), 1.23 (s, 6H).

reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | 6-(4-(imidazo[1,2-a]pyrazin-3-yl)-2-methoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 0.1 mmol, 49 mg | N=1C=C(N2C1C=NC=C2)C2=CC(=C(C=C2)C2=CC=C(N=N2)N(C2CC(NC(C2)(C)C)(C)C)C)OC | C27H33N7O
reactant | thiophenol | 0.12 mmol, 0.01 mL | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 0.11 mmol, 14 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 5-(imidazo[1,2-a]pyrazin-3-yl)-2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol | 8 mg | N=1C=C(N2C1C=NC=C2)C=2C=CC(=C(C2)O)C=2N=NC(=CC2)N(C2CC(NC(C2)(C)C)(C)C)C | C26H31N7O
